US07884101B2
To a solution of 3-(2-methyl-2H-pyrazol-3-yl)-4-(2-[1,4]oxazepan-4-yl-ethoxy)-phenylamine (0.08 g, 0.253 mmol) in 2.0 mL of DMA was added isopropyl chloroformate (0.034 g, 0.278 mmol), and the reaction mixture was stirred at room temperature overnight. The reaction mixture was diluted to 5.0 mL with DMSO and was subjected to purification on RP-HPLC. The proper fractions were collected and lyophilized to afford [3-(2-methyl-2H-pyrazol-3-yl)-4-(2-[1,4]oxazepan-4-yl-ethoxy)-phenyl]-carbamic acid isopropyl ester as an off-white semisolid in 80% yield. LCMS m/z (%)=403 (M+H, 100). 1H NMR (400 MH, Acetone-d6) δ: 8.35 (bs. 1H), 7.45 (dd, J=8.4 and 2.6 Hz, 1H), 7.33 (s, 1H), 7.23 (d, J=1.8 Hz, 1H), 6.94 (d, J=8.95 Hz, 1H), 6.05 (d, J=1.82 Hz, 1H), 4.69-4.76, (m, 1H), 4.31 (t, J=4.36 Hz, 2H), 3.52 (s, 3H), 3.41 (t, J=4.93 Hz, 2H), 3.10-3.30 (m, 4H), 2.71-2.80 (m, 4H), 1.05 (d, J=6.12 Hz, 6H).

reactant | 3-(2-methyl-2H-pyrazol-3-yl)-4-(2-[1,4]oxazepan-4-yl-ethoxy)-phenylamine | 0.253 mmol, 0.08 g | CN1N=CC=C1C=1C=C(C=CC1OCCN1CCOCCC1)N | C17H24N4O2
reactant | isopropyl chloroformate | 0.278 mmol, 0.034 g | ClC(=O)OC(C)C | C4H7ClO2
solvent | DMA | 2.0 mL | CC(=O)N(C)C | C4H9NO
solvent | DMSO | CS(=O)C | C2H6OS
product | [3-(2-methyl-2H-pyrazol-3-yl)-4-(2-[1,4]oxazepan-4-yl-ethoxy)-phenyl]-carbamic acid isopropyl ester | 80% yield | C(C)(C)OC(NC1=CC(=C(C=C1)OCCN1CCOCCC1)C=1N(N=CC1)C)=O | C21H30N4O4
